US05457105
Using an analogous procedure to that described in the first paragraph of the portion of Example 1 which is concerned with the preparation of starting materials, 4-carboxyanthranilic acid (14.2 g) was reacted with formamide to give 7-carboxyquinazolin-4-one (8.5 g). A mixture of a portion (4 g) of the material so obtained, methanol (40 ml) and concentrated sulphuric acid (2 ml) was stirred and heated to reflux for 6 hours. The mixture was cooled to ambient temperature and the precipitate was isolated. There was thus obtained 7-methoxycarbonylquinazolin-4-one (5.7 g).

reactant | 4-carboxyanthranilic acid | 14.2 g | C(=O)(O)C=1C=C(C(C(=O)O)=CC1)N | C8H7NO4
reactant | formamide | C(=O)N | CH3NO
product | 7-carboxyquinazolin-4-one | 8.5 g | C(=O)(O)C1=CC=C2C(NC=NC2=C1)=O | C9H6N2O3
